US06437184B1
To a mixture of 12.8 g of N-(3-(5-trifluoromethyl-2-pyridyloxy)propyl-oxy)phthalimide and 150 ml of chloroform was slowly added dropwise a mixture of 1.74 g of hydrazine hydrate and 1.5 ml of isopropyl alcohol at room temperature. After stirring for 3 hours with heating under reflux, the reaction mixture was returned to room temperature, in which 150 ml of hexane was poured. The reaction mixture was filtered through Celite, and the filtrate was concentrated to give a residue, in which 100 ml of hexane was again poured. This hexane solution was left stand in a refrigerator in 3 days. The deposited crystals were collected by filtration, and dried under reduced pressure, which afforded 7.0 g (yield, 85%) of O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)hydroxylamine, nD24.0 1.4652.

reactant | N-(3-(5-trifluoromethyl-2-pyridyloxy)propyl-oxy)phthalimide | 12.8 g | FC(C=1C=CC(=NC1)OCCCON1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C17H13F3N2O4
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrazine hydrate | 1.74 g | O.NN
reactant | isopropyl alcohol | 1.5 ml | C(C)(C)O | C3H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexane | 150 ml | CCCCCC | C6H14
product | O-(3-(5-trifluoromethyl-2-pyridyloxy)propyl)hydroxylamine | 7.0 g, 85% | FC(C=1C=CC(=NC1)OCCCON)(F)F | C9H11F3N2O2
